US04578378
To a solution of beta-nitrostyrene (447 mg) in ether (10 ml) are added triethylamine (42 l) and ethyl thioglycolate (0.33 ml). After 30 minutes' stirring, the mixture is concentrated to give (1-phenyl-2-nitroethyl)thioacetic acid ethyl ester (718 mg).

reactant | beta-nitrostyrene | 447 mg | [N+](=O)([O-])C=CC1=CC=CC=C1 | C8H7NO2
reactant | triethylamine | 42 l | C(C)N(CC)CC | C6H15N
reactant | ethyl thioglycolate | 0.33 ml | C(CS)(=O)OCC | C4H8O2S
reactant | ether | 10 ml | CCOCC | C4H10O
product | (1-phenyl-2-nitroethyl)thioacetic acid ethyl ester | 718 mg | C(C)OC(CC(C[N+](=O)[O-])C1=CC=CC=C1)=S | C12H15NO3S
